US06573293B2
To a mixture of benzoyl chloride (1 equiv.) and aluminum chloride (1 equiv.) in dichloroethane at 0° C. was added ethyl 3,5-dimethyl-2-pyrrolecarboxylate (1 equiv.). The mixture was stirred at 80° C. for 4 hr. The mixture was then extracted with ethyl acetate (EtOAc) and H2O. The combined organic extracts were washed with saturated sodium bicarbonate and brine, dried and concentrated to give (51%) of 4-benzoyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid.

reactant | benzoyl chloride | 1 equiv. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 1 equiv. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 3,5-dimethyl-2-pyrrolecarboxylate | 1 equiv. | CC1=C(NC(=C1)C)C(=O)OCC | C9H13NO2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-benzoyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid | 51% | C(C1=CC=CC=C1)(=O)C=1C(=C(NC1C)C(=O)O)C | C14H13NO3
